US07153878B2
1-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethanol
To a solution of 4-ethyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carbaldehyde (0.793 g, 2.95 mmole) in THF (30 mL) at 0° C., is added a solution of methyl magnesium bromide in diethyl ether (3.0M, 2.0 mL, 0.60 mmole) dropwise. The reaction is stirred for 5 minutes and then warmed up to room temperature for 30 minutes. The reaction is quenched with NH4Cl(aq) (10 mL), partitioned between ethyl acetate (50 mL) and water (50 mL). Extracted the aqueous layer with ethyl acetate (2×50 mL). The combined organic is washed with brine (3×100 mL), dried over Na2SO4, filtered and concentrated to provide the titled compound as a white solid. The crude product is used for the next step without further purification. Mass [EI+] 286 (M+H)+.

reactant | 4-ethyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carbaldehyde | 2.95 mmole, 0.793 g | C(C)C=1N=C(OC1C=O)C1=CC=C(C=C1)C(F)(F)F | C13H10F3NO2
reactant | methyl magnesium bromide | C[Mg]Br
reactant | diethyl ether | 0.60 mmole, 3.0M, 2.0 mL | C(C)OCC | C4H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-[4-Ethyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethanol | C(C)C=1N=C(OC1C(C)O)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NO2
